Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
agitation s/p fall
 
Major Surgical or Invasive Procedure:
Mechanical Intubation

 
History of Present Illness:
Mr. ___ is a ___ with unknown past medical history who was 
reportedly drinking at the ___ game this evening when he 
fell ("face-planted") into the ground in front of the bathroom. 
He was seen by EMS and was profoundly agitated and 
verbally/physically abusive and thus was handcuffed for 
transport to the ___ ED for evaluation.  
In the ED, initial vitals: 125 141/93 22 97% RA. FSBG 65. 
Patient was noted to again be verbally and physically abusive, 
unable to give a history due to presumed intoxication. He 
received 5mg of IM haldol x2 and 1L of NS without significant 
improvement in behavior or agitation, reportedly swinging at 
staff in the ED. He was then given 2mg IM ativan at which point 
he became less agitated but began desatting to the ___ with poor 
respiratory effort. Given need for further diagnostic testing, 
patient was intubated with etomidate 20 mg and succinylcholine 
40. He was sedated with fentanyl and versed. Labs in the ED 
notable for serum EtOH of 393 and positive urine cocaine. He had 
an anion gap of 18 with bicarb of 21. Abg after intubation 
___/494 on FiO2 of 100%, rate of 20, TV of 500 and PEEP of 
5. CT head in ED negative for bleed, Cspine negative for 
fracture.  
Of note, patient's girlfriend reportedly accompanied him to the 
ED however was escorted out due to intoxication prior to 
transfer to the ICU.  
On arrival to the MICU, patient intubated, sedated with HR of 
77, BP of 118/72. Vent settings of CMV, tidal volume 500, RR26, 
FiO2 40%, PEEP 5. Patient unable to provide further history.  
Review of systems: Unable to obtain given sedation/intubation.  

 
Past Medical History:
unknown
 
Social History:
___
Family History:
unknown
 
Physical Exam:
77 130/66 24 100 on RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ 01:24PM   LACTATE-2.1*
___ 01:02PM   GLUCOSE-74 UREA N-10 CREAT-0.7 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-108 TOTAL CO2-20* ANION GAP-19
___ 01:02PM   CALCIUM-8.6 PHOSPHATE-3.0 MAGNESIUM-1.6
___ 05:13AM   LACTATE-2.5*
___ 05:03AM   GLUCOSE-76 UREA N-9 CREAT-0.7 SODIUM-146* 
POTASSIUM-3.5 CHLORIDE-112* TOTAL CO2-18* ANION GAP-20
___ 05:03AM   CK(CPK)-255
___ 05:03AM   CALCIUM-8.2* PHOSPHATE-2.2* MAGNESIUM-1.6
___ 05:03AM   WBC-8.1 RBC-4.27* HGB-13.5* HCT-40.8 MCV-96 
MCH-31.7 MCHC-33.2 RDW-13.3
___ 05:03AM   PLT COUNT-163
___ 02:45AM   ___ PO2-128* PCO2-31* PH-7.41 TOTAL 
CO2-20* BASE XS--3
___ 02:45AM   LACTATE-2.2*
___ 01:21AM URINE  HOURS-RANDOM
___ 01:21AM URINE  HOURS-RANDOM
___ 01:21AM URINE  UHOLD-HOLD
___ 01:21AM URINE  GR HOLD-HOLD
___ 01:21AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 01:21AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:21AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:46PM   TYPE-ART RATES-20/ TIDAL VOL-500 PEEP-5 
O2-100 PO2-494* PCO2-49* PH-7.29* TOTAL CO2-25 BASE XS--3 
AADO2-185 REQ O2-39 -ASSIST/CON INTUBATED-INTUBATED
___ 10:35PM   GLUCOSE-73 UREA N-9 CREAT-0.8 SODIUM-143 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-21* ANION GAP-22*
___ 10:35PM   estGFR-Using this
___ 10:35PM   ALT(SGPT)-18 AST(SGOT)-27 ALK PHOS-39* TOT 
BILI-0.2
___ 10:35PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:35PM   WBC-9.5 RBC-4.76 HGB-15.3 HCT-44.7 MCV-94 
MCH-32.1* MCHC-34.2 RDW-13.4
___ 10:35PM   NEUTS-47.4* LYMPHS-45.1* MONOS-5.1 EOS-1.2 
BASOS-1.1
___ 10:35PM   PLT COUNT-208
___ 10:35PM   PLT COUNT-___ with unknown PMH presented following fall at ___ 
while intoxicated now admitted to ICU intubated and sedated due 
to agitation and inability to protect his airway in setting of 
alcohol and cocaine intoxication.  

#Hypoxemic respiratory failure: Patient with inability to 
oxygenate appropriately and protect his airway in setting of 
EtOH/cocaine intoxication and sedating meds in ED with sats of 
80% when not agitated. Arrived on the MICU intubated. Patient 
was exbutated sucessfully. After which Sp02% would desaturated 
to the 85%, this likely ___ to aspiration pnuemonitits from 
insult described above and given the HPI. He was kept on 
supplemental oxygen for thearpy and observed for 24 hour period. 
After which resolved. He was instructed  should follow up with 
his PCP regarding the possibility of OSA

#Anion gap acidosis: likely ethanol related, mild lactic 
acidosis as well. Patient was given 1L NS bolus and resolved 
after fluid bolus.

#Ethanol/cocaine intoxication: alcohol use history, history of 
withdrawal unknown at this point. He came sedated with fentanyl 
and midazolam which stopped to extubation. He was put on 
thiamine and folate and CIWA once extubated and alochol 
use/history clarified. Social work was consulted for his alcohol 
use. He was monitored and wanted to leave AMA but was encouraged 
to stay for another 24 hours. He was sent out with instructions 
to abstain from alcohol, to join alcohol anonymous and to 
consider a drug-detox day program. He was also instructed to 
return to the ED should he have any danger signs of alcohol 
withdrawal (i.e. chest pain, agititation, seizures, etc). 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Alcohol intoxication, cocaine use, respiratory failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
It was a pleasure taking care of you at ___. You were admitted 
because your were intoxicated with alcohol and cocaine. You had 
to be intubated because you were having difficulty breathing. 
You were admitted to the medical intensive care unit. You were 
able to be extubaed quickly and you were able to breath on your 
own without any problems. Your oxygen levels were low at night. 

Please follow up with your primary care provider. You should 
also consider alcoholics anonymous or speaking with a 
drug-treatment program to help with your substance abuse. 

Regards, 
Your ___ Team
 
Followup Instructions:
___